US07772191B2
4-Bromo-1-chloro-2-(4-cyclopentyloxy-benzyl)-benzene
To a mixture of 40.0 g 4-(5-bromo-2-chloro-benzyl)-phenol and 71.0 g cesium carbonate in 300 mL ethanol are added 23 mL iodocyclopentane. The mixture is stirred at 60° C. over night and then cooled to ambient temperature. The ethanol is evaporated, and water is added to the residue. The resulting mixture is extracted with ethyl acetate, the combined extracts are dried over sodium sulfate, and the solvent is removed. The residue is filtered through silica gel (cyclohexane/ethyl acetate 100:1→10:1).

reactant | 4-(5-bromo-2-chloro-benzyl)-phenol | 40.0 g | BrC=1C=CC(=C(CC2=CC=C(C=C2)O)C1)Cl | C13H10BrClO
reactant | cesium carbonate | 71.0 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | iodocyclopentane | 23 mL | IC1CCCC1 | C5H9I
solvent | ethanol | 300 mL | C(C)O | C2H6O
product | 4-Bromo-1-chloro-2-(4-cyclopentyloxy-benzyl)-benzene | BrC1=CC(=C(C=C1)Cl)CC1=CC=C(C=C1)OC1CCCC1 | C18H18BrClO
